US05002693
6.09 g (20 mmol) of (+)-4-benzyloxy-4'-(1-hydroxyethyl)biphenyl was dissolved in 100 ml of dry pyridine, followed by dropwise addition of 1.73 g (22 mmol) of acetyl chloride The mixture was stirred at room temperature for one hour, then poured into 1 liter of 2N hydrochloric acid and extracted with 300 ml of toluene. The toluene layer was washed with water, then with a 7% sodium bicarbonate solution and again with water successively in that order and then dried over anhydrous magnesium sulfate. This toluene solution was distilled under reduced pressure to remove the solvent and the residual white solid was purified by column chromatography packed with 200 g of silica gel to obtain 6.86 g of (+)-4-benzyloxy-4'-(1-acetoxyethyl)biphenyl in a 99% yield. It was further purified by recrystallization from ethanol. [α]D25 =+56.3° (c=1, CHCl3); melting point: 137° C.

reactant | (+)-4-benzyloxy-4'-(1-hydroxyethyl)biphenyl | 20 mmol, 6.09 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)O | C21H20O2
reactant | acetyl chloride | 22 mmol, 1.73 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 2N, 1 liter | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | (+)-4-benzyloxy-4'-(1-acetoxyethyl)biphenyl | 6.86 g, 99% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)OC(C)=O | C23H22O3
